US04122183
(a) 2-isobutyramido-5-methyloxazole
2-Amino-5-methyloxazole (3.30 g., 0.0336 mol) prepared by the method of Berichte 95 2419 (1962) was added to dry benzene (40 ml.) and isobutyric anhydride (5.90 g., 0.0372 mol) was added. The mixture was heated under reflux for 3 hours. Methanol (5 ml.) and triethylamine (5 drops) were then added cautiously and the mixture was heated for a further 30 minutes. The mixture was then cooled and washed with water (2 × 20 mls.), 10% aqueous sodium carbonate (3 × 25 mls.) and water (3 × 20 mls.). The organic phase was then dried over magnesium sulphate and evaporated under reduced pressure. The solid was then recrystallised from hexane Yield = 1.44 g. (25.5%) m.p. 109° - 109.5° C.

reactant | 2-Amino-5-methyloxazole | 0.0336 mol, 3.30 g | NC=1OC(=CN1)C | C4H6N2O
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | isobutyric anhydride | 0.0372 mol, 5.90 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
solvent | Methanol | 5 ml | CO | CH4O
product | 2-isobutyramido-5-methyloxazole | C(C(C)C)(=O)NC=1OC(=CN1)C | C8H12N2O2
